US06965032B2
Preparation of ethyl 1-(3-chloro-2-pyridinyl)-4,5-dihydro-3-[[(4-methylphenyl)sulfonyl]oxy]-1H-pyrazole-5-carboxylate
Triethylamine (3.75 g, 37.1 mmol) was added dropwise to a mixture of ethyl 2-(3-chloro-2-pyridinyl)-5-oxo-3-pyrazolidinecarboxylate (10.0 g, 37.1 mmol) and p-toluenesulfonyl chloride (7.07 g, 37.1 mmol) in dichloromethane (100 mL) at 0° C. Further portions of p-toluenesulfonyl chloride (0.35 g, 1.83 mmol) and triethylamine (0.19 g, 1.88 mmol) were added. The reaction mixture was then allowed to warm to room temperature and was stirred overnight. The mixture was then diluted with dichloromethane (200 mL) and washed with water (3×70 mL). The organic phase was dried and evaporated to leave the title product as an oil (13.7 g, 87% yield), which slowly formed crystals. Product recrystallized from ethyl acetate/hexanes melted at 99.5-100° C.

reactant | Triethylamine | 37.1 mmol, 3.75 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(3-chloro-2-pyridinyl)-5-oxo-3-pyrazolidinecarboxylate | 37.1 mmol, 10.0 g | ClC=1C(=NC=CC1)N1NC(CC1C(=O)OCC)=O | C11H12ClN3O3
reactant | p-toluenesulfonyl chloride | 37.1 mmol, 7.07 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | p-toluenesulfonyl chloride | 1.83 mmol, 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | triethylamine | 1.88 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
product | ethyl 1-(3-chloro-2-pyridinyl)-4,5-dihydro-3-[[(4-methylphenyl)sulfonyl]oxy]-1H-pyrazole-5-carboxylate | 13.7 g, 87% yield | ClC=1C(=NC=CC1)N1N=C(CC1C(=O)OCC)OS(=O)(=O)C1=CC=C(C=C1)C | C18H18ClN3O5S
